US07196090B2
3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-(4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-(4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as described in Example 5 using 0.5 g (1.21 mmol) of 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.42 g (3.64 mmol) of trans-4-aminocyclohexanol. The crude product was purified using medium-pressure chromatography eluting with 20:1 dichloromethane/methanol to give 0.50 g (89%) of the title compound: mp 198° C.–202° C. MS (APCI) (m+1)/z 464.1.

reactant | 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 1.21 mmol, 0.5 g | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H18F2N4O4S
reactant | trans-4-aminocyclohexanol | 3.64 mmol, 0.42 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
product | 3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-(4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.50 g, 89% | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)NC1CCC(CC1)O)CC)=O | C22H27F2N5O4
